US08106043B2
N-(4-(2-(Methylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide (8):
To a stirred solution of phenyl methyl(2-(7-(thiophene-2-carboximidamido)-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)carbamate (65 mg, 0.144 mmol) in ethanol (4 mL) was added sodium hydroxide (57.4 mg, 1.436 mmol) as a solution in water (2 mL). The resulting mixture was heated to 78° C. and stirred overnight. The mixture was then cooled to room temperature, diluted with water and sodium hydroxide, and extracted with dichloromethane (5×). The combined organics were dried, filtered, concentrated, and then chromatographed in 10% (2M NH3 in MeOH) in dichloromethane, giving the desired product (22 mg, 46%). 1H NMR (DMSO-d6) δ 7.69 (d, J=3.3 Hz, 1H), 7.56 (d, J=5.1 Hz, 1H), 7.07 (t, J=4.4 Hz, 1H), 6.72 (d, J=8.7 Hz, 1H), 6.53-6.44 (m, 2H), 6.29 (brs, 2H), 3.54-3.51 (m, 2H), 3.3 (m, 2H), 3.04-3.00 (m, 2H), 2.66 (t, J=6.8 Hz, 2H), 2.32 (s, 3H); MS-EI: (m/z, %) 332 (M+, 75), 288 (97), 260 (100); EI-HRMS calculated for C16H20N4S2 (M+), calculated: 332.1129, observed: 332.1145. HPLC: 95% by area.

reactant | phenyl methyl(2-(7-(thiophene-2-carboximidamido)-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)carbamate | 0.144 mmol, 65 mg | CN(C(OC1=CC=CC=C1)=O)CCN1C2=C(SCC1)C=C(C=C2)NC(=N)C=2SC=CC2 | C23H24N4O2S2
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | water | 2 mL | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
solvent | sodium hydroxide | 1.436 mmol, 57.4 mg | [OH-].[Na+]
product | N-(4-(2-(Methylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide | 22 mg, 46% | CNCCN1C2=C(SCC1)C=C(C=C2)NC(=N)C=2SC=CC2 | C16H20N4S2
